US06426354B1
2-{[1-(2-Mercapto-3-methyl-butanoylamino)-cyclopentanecarbonyl]-amino}-3-(5-phenyl-thien-2-yl)-propionic acid
55 mg (0.101 mmol) of 2-{[1-(2-Acetylthio-3-methyl-butanoylamino)-cyclopentanecarbonyl]-amino}3-(5-phenyl-thien-2-yl)-propionic acid ethyl ester is dissolved in 2 mL of MeOH. 0.41 mL of 1N NaOH is added, and the solution is stirred at room temperature for 3 h. The reaction mixture is diluted with water, and MeOH is removed in vacuo. The residue is partitioned between water and Et2O. The aqueous phase is extracted twice with Et2O, acidified with 0.41 mL of 1N HCl, and then extracted with EtOAc. The EtOAc phase is concentrated to furnish the product; mp 154-155° C.

reactant | 2-{[1-(2-Acetylthio-3-methyl-butanoylamino)-cyclopentanecarbonyl]-amino}3-(5-phenyl-thien-2-yl)-propionic acid ethyl ester | 0.101 mmol, 55 mg | C(C)OC(C(CC=1SC(=CC1)C1=CC=CC=C1)NC(=O)C1(CCCC1)NC(C(C(C)C)SC(C)=O)=O)=O | C28H36N2O5S2
reactant | NaOH | 1N, 0.41 mL | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | water | O | H2O
product | 2-{[1-(2-Mercapto-3-methyl-butanoylamino)-cyclopentanecarbonyl]-amino}-3-(5-phenyl-thien-2-yl)-propionic acid | SC(C(=O)NC1(CCCC1)C(=O)NC(C(=O)O)CC=1SC(=CC1)C1=CC=CC=C1)C(C)C | C24H30N2O4S2
